US06956042B2
A mixture of spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] (50 mg, 0.3 mmol), tris(dibenzylideneacetone)dipalladium(0) (9 mg, 0.009 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (12 mg, 0.018 mmol), potassium tert-butoxide (147 mg, 1.3 mmol), and 5-bromo-3-phenoxypyridine (90 mg, 0.36 mmol) in dry toluene (5 mL) was heated in a sealed tube under argon at 160° C. for 17 h. The reaction was cooled to 0° C. and the contents transferred to a 100 mL round bottom flask. The solvent was removed by rotary evaporation and the residue was dissolved in a saturated solution of NaHCO3 (10 mL) and extracted with chloroform (4×15 mL). The combined chloroform extracts were dried (K2CO3), filtered and concentrated by rotary evaporation to give a dark colored syrup. This was purified by column chromatography, using MeOH:CHCl3:NH4OH (8:2:0.01, v/v) as the eluent, to afford 55.8 mg of 1′-(5-phenoxy-3-pyridyl)-spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] (52%) as a viscous tan oil.

reactant | spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] | 0.3 mmol, 50 mg | N1CC2(CC1)N1CCC(C2)C1 | C9H16N2
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.018 mmol, 12 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | potassium tert-butoxide | 1.3 mmol, 147 mg | CC(C)([O-])C.[K+]
reactant | 5-bromo-3-phenoxypyridine | 0.36 mmol, 90 mg | BrC=1C=C(C=NC1)OC1=CC=CC=C1 | C11H8BrNO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.009 mmol, 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1′-(5-phenoxy-3-pyridyl)-spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] | 55.8 mg, 52% | O(C1=CC=CC=C1)C=1C=C(C=NC1)N1CC2(CC1)N1CCC(C2)C1 | C20H23N3O
